US05308843
(S)-10-(2,6-Dimethyl-4-pyridinyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzothiazine-6-carboxylic acid 1-oxide [I; R1 =H, R2 and R3 =CH3 , X=S=O]
(S)-10-(2,6-Dimethyl-4-pyridinyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzothiazine-6-carboxylic acid (U.S. Pat. No. 4,839,355, Example 7f) (192 mg) and 153.7 mg of a mixture of potassium monopersulfate, potassium hydrogen sulfate and potassium sulfate (mole ratio 2:1:1) (Oxone®) (0.5 mM of potassium monopersulfate) in 20 ml of aqueous propionic acid (20% water) were combined at 0° C. with stirring. The mixture was allowed to come to room temperature, stirred for 4 hours and concentrated to dryness. Saturated sodium chloride solution was added to the mixture which was then extracted with chloroform. The chloroform extract was dried over sodium sulfate and concentrated to dryness. The resulting residue was treated with ethyl alcohol to give 60 mg (30% yield) of the title compound as a solid which was collected by filtration; m.p. 294.0°-295.0° C.

reactant | (S)-10-(2,6-Dimethyl-4-pyridinyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzothiazine-6-carboxylic acid | CC1=NC(=CC(=C1)C=1C(=CC2=C3N([C@H](CSC31)C)C=C(C2=O)C(=O)O)F)C | C20H17FN2O3S
reactant | potassium monopersulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
reactant | potassium sulfate | 0.5 mM | S(=O)(=O)([O-])[O-].[K+].[K+]
solvent | propionic acid | 20 ml | C(CC)(=O)O | C3H6O2
product | (S)-10-(2,6-Dimethyl-4-pyridinyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzothiazine-6-carboxylic acid 1-oxide | 60 mg, 30% yield | CC1=NC(=CC(=C1)C=1C(=CC2=C3N(C(C[S@@](C31)=O)C)C=C(C2=O)C(=O)O)F)C | C20H17FN2O4S
